US09120773B2
In a stream of argon, 0.95 g (4 mmol) of 9,9-dimethyl-2-fluoreneboronic acid, 1.87 g (4 mmol) of 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine and 46.2 mg (0.04 mmol) of tetrakis(triphenylphosphine)palladium were suspended in a mixed solvent composed of 150 mL of toluene and 20 mL of ethanol, and the resultant suspension was heated to 50° C. To the suspension, 12 mL (12 mmol) of an aqueous 1M K2CO3 solution was gradually added dropwise, and the mixture was stirred for 18 hours. The resultant reaction mixture was cooled to room temperature, and then, 1.19 g (6 mmol) of 4-(2-pyridyl)phenylboronic acid and 12 mL (12 mmol) of an aqueous 1M K2CO3 solution were added to the reaction mixture. The resultant mixture was heated to 60° C., and maintained at that temperature for 2 hours while being stirred. The obtained reaction mixture was cooled to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The obtained crude product was purified by silica gel chromatography using a hexane/chloroform (1:2) mixed solvent as an eluent to give 1.61 g of the target 2-[5-(9,9-dimethylfluoren-2-yl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenyl-1,3,5-triazine as a white solid (yield: 61.5%).

reactant | 9,9-dimethyl-2-fluoreneboronic acid | 4 mmol, 0.95 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)B(O)O)C | C15H15BO2
reactant | 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine | 4 mmol, 1.87 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H13Br2N3
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-pyridyl)phenylboronic acid | 6 mmol, 1.19 g | N1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C11H10BNO2
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 46.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(9,9-dimethylfluoren-2-yl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenyl-1,3,5-triazine | yield: 61.5% | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C=1C=C(C=C(C1)C1=CC=C(C=C1)C1=NC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C | C47H34N4
